US05360937
1,4,8,11-Tetraoxadispiro[4.1.4.1]dodecane
4.56 g of 1,1,3,3-tetramethoxycyclobutane (content 96.7 percent, 25 mmol) in 19.7 g of ethanediol was heated to 135° C. Thus, first the main separation of the resulting methanol at normal pressure and then (after 2 hours) the rest of the readily volatile components were distilled off at 200 mbar. The product crystallized out from the residue during cooling to room temperature and was filtered off and dried at 20° C./0,005 mbar. The yield of product was 2.11 g, with a content (GC) of 82.8 percent, which corresponds to 40.6 percent of theory. Other data concerning the product is:

reactant | 1,1,3,3-tetramethoxycyclobutane | 25 mmol, 4.56 g | COC1(CC(C1)(OC)OC)OC | C8H16O4
solvent | ethanediol | 19.7 g | C(C)(O)O | C2H6O2
product | 1,4,8,11-Tetraoxadispiro[4.1.4.1]dodecane | O1CCOC12CC1(OCCO1)C2 | C8H12O4
